US04160086
(b) 7-(α-Carboxythien-3-ylacetamido)-3-(1-carboxymethyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid trisodium salt
7-(α-Phenoxycarbonylthien-3-ylacetamido)-3-(1-carboxymethyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid disodium salt (0.7 g.) and sodium tetraborate decahydrate (0.76 g.) in water (25 ml.) were stirred at room temperature for three hours, washed with ether (2×25 ml.), acidified to pH 2.0 with N hydrochloric acid and extracted with ethyl acetate (3×15 ml.), The combined extracts were washed with water (10 ml.) then extracted to pH 6.5 with 0.3 N sodium bicarbonate solution. The bi-carbonate extract was washed with ether (20 ml.) and freeze dried to give a pale brown solid, 0.3 g., 50.9% yield. U.V. spectrum (H2O), λmax 268 nm (ε=9,400). Paper chromatography (n-butanol/ethanol/water) showed a zone at the origin.

reactant | 7-(α-Phenoxycarbonylthien-3-ylacetamido)-3-(1-carboxymethyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid disodium salt | 0.7 g | [Na+].[Na+].O(C1=CC=CC=C1)C(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)[O-])C1=O)C1=CSC=C1.O(C1=CC=CC=C1)C(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)[O-])C1=O)C1=CSC=C1
reactant | sodium tetraborate decahydrate | 0.76 g | O.O.O.O.O.O.O.O.O.O.B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | n-butanol ethanol water | C(CCC)O.C(C)O.O
solvent | water | 25 ml | O | H2O
product | 7-(α-Carboxythien-3-ylacetamido)-3-(1-carboxymethyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid trisodium salt | 50.9% yield | [Na+].[Na+].[Na+].C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)[O-])C1=O)C1=CSC=C1.C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)[O-])C1=O)C1=CSC=C1.C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)[O-])C1=O)C1=CSC=C1 | InChI=1S/3C18H16N6O8S3.3Na/c3*25-9(26)3-23-18(20-21-22-23)35-6-8-5-34-15-11(14(28)24(15)12(8)17(31)32)19-13(27)10(16(29)30)7-1-2-33-4-7;;;/h3*1-2,4,10-11,15H,3,5-6H2,(H,19,27)(H,25,26)(H,29,30)(H,31,32);;;/q;;;3*+1/p-3/t3*10?,11?,15-;;;/m111.../s1
